Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My credit cards were hacked" 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Dr. ___ psychiatric consultation note on 
___
___ year old female with an MD/PhD and a history of bipolar 
disorder (last hospitalized in ___ and TBI in ___ complicated 
by recurrent subdural hematoma and temporal occipital seizures 
(vs temporal lobe epilepsy), who was brought in by ambulance 
after police were sent to her home because her security alarm 
was going off and she was not letting police in or willing to 
turn off the alarm. Psychiatry was consulted for evaluation of 
psychosis.

On interview, patient is difficult to follow and when asked why
she came to the hospital today, she describes a series of events
including charges on her credit card that she did not recognize 
and her
electronics not working. She attributes these "strange things" 
to
a ___ man that she believes is in love with her and "after 
me."
She then pulls out her phone to show me a picture of man and 
asks
if he looks psychotic. Patient then talks about not trusting the
doorman and her building and being convinced that he is related
to the ___ man. Patient reports calling the police due to her
concerns and fears, and was upset because the police did not
sound concerned. 

When asked about the alarms and not letting the police into her
home, patient states that she was afraid that the police were
with the ___ man and she was concerned that someone with a gun
would enter her house and kill her. 

Patient says she was in a very good mood today, "I think I'm
hypomanic." She reports not sleeping at all two nights ago
because she was occupied with her thoughts. She also denies
eating anything two days ago and says yesterday she only had an
egg, a slice of ___ and a kiwi. She endorses good energy,
interferes and motivation. She ___ been "trying to make
connections" in an attempt to solve political and scientific
problems. She reports having a lot of thoughts but says they are
not racing. She denies auditory and visual hallucinations. She 
is
sure that people are out to get her and says "and I'm not
paranoid."
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: Last in ___ at ___ for concern that people 
were chasing her, also ___ in ___ and ___ in ___
Current treaters and treatment: Psychiatrist-Dr. ___ at
___, Therapist-Dr. ___ and ECT trials: Zyprexa, Mellaril, Trilafon,
Risperidone, Lithium, Seroquel
Self-injury: Denies history of suicide attempt and self 
injurious behavior
Harm to others: Denies
Access to weapons: Denies

PAST MEDICAL HISTORY:
TBI in ___ with subdural, then recurrent subdural in ___
Temporal Occipital Seizures
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Denies family history of psychiatric and substance use disorder,
and suicide attempts. 
 
Physical Exam:
EXAM:
*VS:  BP:143/78   HR:76   temp:98.5    resp:18  O2 sat: 98% RA 

Neurological:
 *station and gait: resting in hospital bed
 *tone and strength: normal bulk and tone
 cranial nerves: II-XII grossly in tact
 abnormal movements: no tics or tremors

Cognition:
 Wakefulness/alertness: awake and alert
 *Attention (digit span, MOYB): MOYB with no errors
 *Orientation: oriented to date, hospital and city
 *Memory: registers ___, spontaneous recall ___, with category
cue ___, with multiple choice ___
 *Fund of knowledge: above average, references research papers 
on
TBI and seizures during interview 
 *Speech: difficult to interrupt at times, normal volume and 
tone
 *Language: accented ___ speaker, no paraphasic errors

Mental Status:
 *Appearance: Well groomed short haired blond female who appears
stated age, wearing hospital gown
 Behavior: calm and cooperative
 *Mood and Affect: "today I was in a very good mood," mood
congruent, full range, hyperthymic at times
 *Thought process / *associations: tangential, difficult to
follow at times
 *Thought Content: paranoid delusions related to a ___ man who
she believes is following her, ideas of reference
 *Judgment and Insight: limited
 
Pertinent Results:
CBC
___ 02:45AM   WBC-8.7 RBC-4.37 HGB-14.1 HCT-42.7 MCV-98 
MCH-32.3* MCHC-33.0 RDW-13.6 RDWSD-48.9*
___ 02:45AM   NEUTS-54.5 ___ MONOS-9.6 EOS-0.2* 
BASOS-0.3 IM ___ AbsNeut-4.75 AbsLymp-3.07 AbsMono-0.84* 
AbsEos-0.02* AbsBaso-0.03

UA/UCx
___ 12:31AM URINE  RBC-2 WBC-122* BACTERIA-FEW* YEAST-NONE 
EPI-1 TRANS EPI-1
___ 12:31AM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG*
UCx grew pan-sensitive E. coli

Tox screen
___ 12:31AM URINE  bnzodzpn-POS* barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:45AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG

BMP
wnl, Cr 0.8

A1c 5.7% from ___

Lipids
Cholesterol 169, ___ 124, HDL 49, LDL calculated 95 from ___

LFTs
ALT 10, AST 16

Prolactin 106

TSH 2.5

Depakoate level ___ was ___. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___.  At that time the patient was not deemed 
to be at risk of harm to self/others due to her ability to 
engage in reality testing; however, she was still quite paranoid 
and opted to continue her hospitalization by signing a CV. On 
___, as she was still not at her baseline but requesting 
discharge, a 3 day notice was signed. She was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted. After 
demonstrating decreased paranoia, willingness to seek treatment 
as well as compliance with treatment plans, ability to engage in 
reality testing and safety planning, future-orientation w/o SI, 
and plan to receive prompt outpatient follow up care, she was 
discharged home on ___.

2. PSYCHIATRIC:

#Unspecified psychotic disorder likely ___ bipolar disorder
This is a ___ ___ woman with an MD/PhD, outpatient of
Dr ___, with a past psychiatric history of bipolar disorder
(last hospitalized in ___, TBI in ___ complicated by 
recurrent
subdural hematoma and temporal occipital seizures, who was
brought in by police to the ___ ED due to her alarm repeatedly
going off and she initially refused to let in police; psychiatry
was consulted due to for concern for psychosis. She was admitted
to ___ on ___ for safety, stabilization, diagnostic
clarification, treatment, and aftercare planning.

Initial interview notable for patient's own concern that her 
mood
might be "hyperthymic," reporting average of a few hours of 
sleep
per night, concern for potential worsening paranoia - reporting
emails and documents have mysteriously disappeared, worried she
___ been hacked, numerous charges on credit cards, all coupled
with bizarre report of police showing up to her home after her
alarm was repeatedly going off. MSEx is notable for 
irritability,
thought process with tangentiality and mild loosening of
associations, neurocognitive exam notable for some inattention.

Presentation was concerning for a psychotic episode, which was 
likely due to a decompensation of her underlying bipolar 
disorder. Although initial differential included delirium ___ 
UTI, patient's UA (negative), UCx (grew E. coli), CBC (no 
leukocytosis), and vitals (afebrile) appeared to be more 
consistent w/ asymptomatic bacteriuria.

Patient's home antipsychotic, Dogmatil, is not FDA approved so 
it could not be administered while she was inpatient. Discussed 
medication options with patient and her outpatient psychiatrist. 
She was not interested in retrial with risperidone given past 
galactorrhea. Suggested Haldol, but she is not interested as she 
thinks it was ineffective. She initially requested Geodon, but 
became concerned when discussing potential cardiac risks. She 
also declined a trial of clozapine. She ultimately expressed 
preference for retrial of olanzapine as it was previously 
effective, and acknowledged that she ___ had past weight gain 
and pedal edema on it, which could recur. She was initially 
started on olanzapine 5mg BID but expressed desire to take it at 
night. Olanzapine was initiated at 5 mg BID but ultimately 
switched to 10 mg ___ and then uptitrated to 20 mg ___. In 
addition, her prolactin levels had increased from ~90 in ___ 
to 106 in ___, in the outpatient setting, so she was started 
on aripripazole 5mg ___, associated with lowering prolactin 
levels while also decreasing psychotic symptoms.

On morning of discharge, patient appeared to be tolerating 
olanzapine 20mg ___ and aripripazole 5 mg ___. Her MSE was 
notable for less pressured speech, decreased paranoia with 
ability to engage in reality testing as well as safety planning 
and future oriented-thinking. On physical exam, she was noted to 
have leg and finger swelling. She notes that she ___ had this in 
the past while on olanzapine and that her PCP had prescribed ___ 
"water pill," hydrochlorothiazide 12.5 mg daily. She was 
discharged with a limited supply of HCTZ and instructed to 
follow up with her PCP within ___ week so that she can have her 
kidney function and electrolytes checked.

Initially the patient expressed desire to resume her home 
Dogmatil. Upon review that the plan was to change to olanzapine 
and ariprazole and stop Dogmatil, she expressed understanding 
and her intention was to continue these medications under the 
monitoring of her psychiatrist Dr. ___. It should be noted 
however that on the night before discharge she declined Zyprexa 
20mg due to edema which she feels is a side effect from Zyprexa. 
 She was discharged with the instructions to resume her 
diuretic, which had been prescribed by her PCP, to counter 
balance the edema. 

3. SUBSTANCE USE DISORDERS
#Nicotine
Reported quitting tobacco ~1 month ago. Began to experience 
withdrawal symptoms so she was given a nicotine patch and gum 
PRN. She was discharged w/ prescriptions for both and instructed 
to discuss smoking cessation w/ her PCP at her next f/u visit.

4. MEDICAL
#Asymptomatic bacteriuria
Initial UA notable for 122 WBC and a few bacteria. ED providers 
opted to start Macrobid ___ BID given concern that psychotic 
symptoms could be ___ delirium ___ UTI. Patient received one 
dose which she reports she did not actually take citing fear 
that the Macrobid was actually lithium. After the 1 dose was 
administered, Macrobid was discontinued given low suspicion for 
UTI given patient did not develop fever, leukocytosis, or c/o 
dysuria. UCx did grow E. coli; however, antibiotics not 
indicated as she appears asymptomatic. Outside providers should 
follow this in case she does develop signs concerning for UTI.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often did not attend these groups that focused on 
teaching patients various coping skills. OT met w/ patient alone 
to discuss coping skills but patient was not interested stating 
that she ___ all the coping mechanisms she needs."

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
On ___, patient's outpatient psychiatrist Dr. ___ 
___ a repeat trial of risperidone; as noted above 
patient was not onboard and opted for olanzapine instead. On 
___, Dr. ___ w/ patient and then updated team. He 
recommended continuing olanzapine but increasing dose and was 
onboard w/ adding aripripazole since it is associated w/ 
decreased prolactin levels. Team also spoke with therapist (Dr. 
___, friends and family members the week of ___ to ___ who 
agreed that patient's paranoia was above her baseline and who 
understood and/or agreed with recommendation to keep patient 
through Labor Day weekend to ensure antipsychotic regimen was 
effective and that patient would have a safe discharge plan.

#) INTERVENTIONS
- Medications: olanzapine, aripripazole
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Dr. ___ term psychiatrist) 
and Dr. ___ second opinion) for 
psychiatry; Dr. ___ therapy; Dr. ___ for leg 
swelling, diuretic
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
coping skills and mindfulness groups
- Guardianships: None

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication e.g. weight gain and leg swelling, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team. The patient appeared able to understand 
and consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon her 
paranoia and lack of insight.  Her static factors noted at that 
time include history of chronic mental illness w/ acute 
decompensation, history of substance abuse (tobacco), marital 
status (single), past hospitalizations, and history of traumatic 
brain injury. 

The modifiable risk factors were also addressed. In particular, 
her acute decompensation of her chronic mental illness was 
treated w/ medication.

Finally, the patient is being discharged with many protective 
risk factors including future-oriented viewpoint, reality 
testing ability, good coping skills, good problem-solving 
skills, positive therapeutic relationship with outpatient 
providers, and lack of suicidal ideation.  

Overall the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to acutely decompensated 
psychiatric illness. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Divalproex (DELayed Release) 1500 mg PO ___ 
2. DiphenhydrAMINE 50 mg PO ___ 
3. melatonin 3 mg oral ___ 
4. ALPRAZolam 1 mg PO BID
5. Alphagan 1 drop ___
6. Lumigan 1 drop ___

 
Discharge Medications:
- Stop taking Dogmatil
1.  ARIPiprazole 5 mg PO ___ 
RX *aripiprazole [Abilify] 5 mg 1 tablet(s) by mouth bedtime 
Disp #*14 Tablet Refills:*0 
2.  Hydrochlorothiazide 12.5 mg PO DAILY edema Duration: 14 Days 

RX *hydrochlorothiazide 12.5 mg 1 tablet(s) by mouth once a day 
Disp #*14 Capsule Refills:*0 
3.  Nicotine Patch 21 mg/day TD DAILY 
RX *nicotine [Nicoderm CQ] 21 mg/24 hour apply 1 patch once a 
day Disp #*14 Patch Refills:*0 
4.  Nicotine Polacrilex 2 mg PO Q1H:PRN nicotine withdrawal 
RX *nicotine (polacrilex) 2 mg take 1 piece of gum every 2 hours 
as needed Disp #*14 Gum Refills:*0 
5.  OLANZapine 20 mg PO ___ 
RX *olanzapine 20 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
6.  Alphagan P (brimonidine) 0.1 % ophthalmic (eye) BID glaucoma 
 
7.  DiphenhydrAMINE 50 mg PO ___  
8.  Divalproex (DELayed Release) 1500 mg PO ___ 
RX *divalproex [Depakote] 500 mg 3 tablet(s) by mouth at bedtime 
Disp #*42 Tablet Refills:*0 
9.  Lumigan (bimatoprost) 0.01 % ophthalmic (eye) evening  
10.  melatonin 3 mg oral ___  
11.  Xanax XR (ALPRAZolam) 1 mg oral BID anxiety  
- Otherwise continue home medications as previously prescribed
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar disorder

 
Discharge Condition:
Mental Status: Clear and coherent

-Appearance: fair grooming, sitting up in chair in interview 
room

-Behavior/Attitude: ranging from pleasant to mildly irritable, 
engaging,
answered questions willingly

-Mood: "Excited"

-Affect: full/broad, euthymic though dysphoric at times when 
irritated; congruent

-Speech: pressured though interruptible, normal volume, tone, 
and
prosody

-Thought process: logical though tangential / circumstantial at 
times

-Thought Content: Does not appear to be responding to internal
stimuli, continues to have paranoia although able to reality
test. Denies SI and she is future-oriented

-Insight: Poor though improved given acknowledgement of 
importance of safety planning

-Judgment: Poor though improved given ability to create 
reasonable safety plans e.g. having a friend come stay w/ her 
should she become afraid or paranoid while staying in her own 
home

Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent
 
Discharge Instructions:
You were hospitalized at ___ for psychosis.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___